US06114537
To a slurry of 2-mercapto-5-(tert-butoxycarbonyl) aminobenzimidazole (11.46 g, 43.19 mmol) in o-xylene (50 mL) pre-heated to 100° C. was added n-butyl isocyanate (7.3 mL, 64.79 mmol) via syringe. The mixture was then heated at 145-150° C. for 1.5 h, then cooled to room temperature and diluted with hexane (200 mL). The solid was collected by suction filtration and dried under vacuum to afford 1-butylcarbonyl-2-mercapto-5-(tert-butoxycarbonyl)aminobenzimidazole (14.19 g, 95%). 1H-NMR (DMSO)δ: 0.94 (t, J=7.2 Hz, 3H), 1.20-1.60 (m, 4H, 2CH2), 1.51 (s, 9H), 3.37-3.43 (m, 2H, CH2N), 7.19-7.23 (dd, J=9.0 and 1.9 Hz, 1H, Ar-H), 7.64 (s, 1H), 7.96 (d, J=9.0 Hz, 1H, Ar-H), 9.59 (s, 1H), 10.22 (t, J=5.4 Hz, 1H, NHCH2). Elemental Analysis calc (found %: C, 56.0 (55.8); H, 6.6 (5.7) and N, 15.4 (15.3).

reactant | 2-mercapto-5-(tert-butoxycarbonyl) aminobenzimidazole | 43.19 mmol, 11.46 g | SC=1NC2=C(N1)C=CC(=C2)NC(=O)OC(C)(C)C | C12H15N3O2S
reactant | n-butyl isocyanate | 64.79 mmol, 7.3 mL | C(CCC)N=C=O | C5H9NO
reactant | o-xylene | 50 mL | CC=1C=CC=CC1C | C8H10
solvent | hexane | 200 mL | CCCCCC | C6H14
product | 1-butylcarbonyl-2-mercapto-5-(tert-butoxycarbonyl)aminobenzimidazole | 14.19 g, 95% | C(CCC)C(=O)N1C(=NC2=C1C=CC(=C2)NC(=O)OC(C)(C)C)S | C17H23N3O3S
